US06562868B1
1. Preparation of Dimethyl-(2-oxo-5-heptyne)-phosphonate.(2)
To a stirred suspension of dry sodium hydride (3.13 g, 124.07 mmol) in dry THF (100 ml) at room temperature was added dropwise a solution of dimethyl 2-oxopropyl)-phosphonate (20.61 g, 124.07 mmol) in dry THF (50 ml) under N2. The reaction mixture was stirred for 1 h, then cooled in an ice-bath and treated with a solution of n-butyllithium (7.95 g, 124.07 mmol) in hexane, causing a dark brown solution to be formed. Stirring was continued for 1 h at 0° C., followed by dropwise addition of 1-bromo2-butyne.1 (15 g, 112.79 mmol) in THF (30 ml). The reaction mixture was gradually warmed to room temperature and after 1 h (TLC monitoring) the reaction mixture was quenched with ice-water, HCl 1M to pH about 4 and extracted, twice, with ethyl acetate. The organic layer was washed with brine and chromatographed on silica gel using EtOAc as eluent. Rf=0.38 (silica gel, ethylacetate), yield 18 g (73%).

reactant | sodium hydride | 124.07 mmol, 3.13 g | [H-].[Na+]
reactant | phosphonate | 124.07 mmol, 20.61 g | P([O-])([O-])=O
reactant | n-butyllithium | 124.07 mmol, 7.95 g | C(CCC)[Li]
reactant | 1-bromo2-butyne | BrCC#CC | C4H5Br
reactant | THF | 100 ml | C1CCOC1 | C4H8O
reactant | THF | 50 ml | C1CCOC1 | C4H8O
reactant | THF | 30 ml | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | Dimethyl-(2-oxo-5-heptyne) phosphonate | CC(C(CCC#CC)=O)C.P([O-])([O-])=O | InChI=1S/C9H14O.H3O3P/c1-4-5-6-7-9(10)8(2)3;1-4(2)3/h8H,6-7H2,1-3H3;4H,(H2,1,2,3)/p-2
